US07229999B2
5-(4-Cyano-phenyl)-6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, 4-pyridinemethanol, (4-cyano-phenyl)-boronic acid and ((1R,2R)-2-amino-1-cyclohexanol as starting materials to yield 5-(4-cyano-phenyl)-6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide, MS (ISP) 392.2 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | 4-pyridinemethanol | N1=CC=C(C=C1)CO | C6H7NO
reactant | (4-cyano-phenyl)-boronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | (1R,2R)-2-amino-1-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(4-cyano-phenyl)-6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | C(#N)C1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCC1CC1 | C23H25N3O3
